US08030334B2
A flask is charged with 5-fluoro-2-formyl-benzonitrile (0.200 g, 1.34 mmol), potassium carbonate (0.371 g, 0.268 mmol), sodium thiomethoxide (0.142 g, 2.01 mmol) and DMF (20 mL). The mixture is stirred at room temperature for 10 min, then diluted with ethyl acetate and washed with water. The organic layer is dried over sodium sulfate and concentrated in vacuo to afford 5-formyl-2-methylsulfanyl-benzonitrile as a yellow color solid. 1H NMR (400 MHz, CDCl3) δ ppm 2.64 (s, 3H), 7.41 (d, J=8.3 Hz, 1H), 8.01 (dd, J=8.5, 1.9 Hz, 1H), 8.07 (d, J=1.8 Hz, 1H), 9.95 (s, 1H).

reactant | 5-fluoro-2-formyl-benzonitrile | 1.34 mmol, 0.200 g | FC=1C=CC(=C(C#N)C1)C=O | C8H4FNO
reactant | potassium carbonate | 0.268 mmol, 0.371 g | C([O-])([O-])=O.[K+].[K+]
reactant | sodium thiomethoxide | 2.01 mmol, 0.142 g | C[S-].[Na+]
reactant | DMF | 20 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 5-formyl-2-methylsulfanyl-benzonitrile | C(=O)C=1C=CC(=C(C#N)C1)SC | C9H7NOS
